Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Benadryl / Levaquin / hazelnuts and cats / 
cefuroxime / prednisone
 
Attending: ___.
 
Chief Complaint:
presyncope 
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ with HTN, HLD, severe AS, hypothyroidism, and frequent UTIs, 
who presents after an isolated episode of likely presyncope this 
AM.  
 Patient says that she was in her USOH when she was speaking to 
her assisted living facility's concierge about scheduling a ride 
for her husband's urology appointment. She says she was slightly 
emotionally charged at the moment as her husband's PSA has 
risen. Patient describes acute onset of sweating and nausea, 
associated with a sensation of instability causing her to grab 
onto a railing. She describes 'wavy' visual changes at the time. 
There was no fall or head strike. Patient then became more 
nausea and vomited. She soon began to return to normal, 
presented to the ED at the urging of the nursing staff at her 
facility.  
 Patient denies any palpitations, chest pain, or shortness of 
breath. No fevers/chills. No dysuria/frequency. No 
diarrhea/constipation. No bowel/bladder incontinence. Patient 
says that she has never had recurrent episodes of fainting, 
thinks though that she may have experienced something similar to 
this presentation after eating a hot dog several months ago.  
 In the ED initial vitals were: 98.5 60 161/71 20 98% RA  
 EKG: NSR, NA, NI, no ST changes  
 Labs/studies notable for: Trop <0.01, +UA, leukocytosis of 12.5 
 
 CXR: No acute intrathoracic process.  
 Patient was given: PO/NG Sulfameth/Trimethoprim DS 1 TAB  
 Vitals on transfer: 98.1 64 150/61 14 99% RA  
 On the floor patient recounts the history of above. She is 
eager to get a good night's sleep and call her husband. No 
ongoing complaints, she feels fine, at baseline.  

 
Past Medical History:
 PAST MEDICAL HISTORY:  
 1. CARDIAC RISK FACTORS  
 - Hypertension  
 - Dyslipidemia  
 2. CARDIAC HISTORY  
 - Aortic stenosis. Appears to have been first noticed in ___  
 with an aortic valve area of 1.05. It was remeasured in 
___  
 ___ with an aortic valve area of 0.82.  
 - CAD, LVEF: unknown  
 3. OTHER PAST MEDICAL HISTORY  
 hypothyroidism, depression with history of suicide attempt,  
 anxiety, osteoarthritis, history of urinary  
 tract infections.  

 
Social History:
___
Family History:
No family history of early MI, arrhythmia, cardiomyopathies, or 
sudden cardiac death. Mother is deceased, had colon cancer. 
Father  
 deceased of a thromboembolic stroke. A sister who is living has 
 
 Crohn's disease and mental illness.  

 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION:  
 VS: T 97.7 BP 146/64 (flat) 139/64 (sit) 159/63 (stand) HR 
64-66 RR 18 98 O2 SAT  
 GENERAL: Breathing comfortably, pleasant in conversation  
 HEENT: Sclera anicteric. PERRL. EOMI. Conjunctiva were pink. No 
pallor or cyanosis of the oral mucosa. No xanthelasma.  
 NECK: Supple. No elevated JVP.  
 CARDIAC: Regular rate and rhythm. Normal S1, S2. ___ SEM 
loudest at RUSB, mid systolic peak. No rubs, or gallops.  
 LUNGS: No chest wall deformities or tenderness. Respiration is 
unlabored with no accessory muscle use. No crackles, wheezes or 
rhonchi.  
 ABDOMEN: Soft, non-tender, non-distended. No hepatomegaly. No 
splenomegaly.  
 EXTREMITIES: Warm, well perfused. No clubbing, cyanosis, or 
peripheral edema.  
 SKIN: No significant skin lesions or rashes.  
 PULSES: Distal pulses palpable and symmetric.  
 NEURO: CN2-12 intact. Moving all extremities symmetrically. No 
pronator drift.  

DISCHARGE: PHYSICAL EXAMINATION:  
Tele: No events, sinus
VS: T 98.3 BP120s-140s/60s-70s HR ___ RR 18 O2 sat 95%RA   
GENERAL: WDWN woman in NAD. Appears younger than stated age. 
Oriented x3. Mood, affect appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthelasma.  

NECK: Supple with JVP of <10 cm.  
CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. RRR, normal S1, S2. ___ crescendo decrescendo systolic 
murmur best heard at RUSB with radiation to carotids. No 
thrills, lifts. No S3 or S4.  
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. CTAB, no crackles, 
wheezes or rhonchi.  
ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not 
enlarged by palpation. No abdominal bruits.  
EXTREMITIES: No c/c/e. No femoral bruits.  
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES: 2+ and symmetric distally
 
Pertinent Results:
ADMISSION/DISCHARGE LABS:
BLOOD:
___ 02:30PM BLOOD WBC-12.5* RBC-4.51 Hgb-12.8 Hct-39.1 
MCV-87 MCH-28.4 MCHC-32.7 RDW-13.1 RDWSD-40.9 Plt ___
___ 04:35AM BLOOD WBC-8.0 RBC-4.56 Hgb-12.8 Hct-39.1 MCV-86 
MCH-28.1 MCHC-32.7 RDW-13.2 RDWSD-41.1 Plt ___
___ 02:30PM BLOOD Neuts-70.5 Lymphs-18.7* Monos-6.6 Eos-3.0 
Baso-0.6 Im ___ AbsNeut-8.80* AbsLymp-2.34 AbsMono-0.82* 
AbsEos-0.38 AbsBaso-0.07
___ 02:30PM BLOOD Glucose-97 UreaN-19 Creat-0.8 Na-140 
K-3.9 Cl-101 HCO3-24 AnGap-19
___ 04:35AM BLOOD Glucose-83 UreaN-17 Creat-0.9 Na-142 
K-3.6 Cl-103 HCO3-24 AnGap-19
___ 02:30PM BLOOD cTropnT-<0.01
___ 04:35AM BLOOD Calcium-9.5 Phos-4.6* Mg-2.0

URINE:
___ 03:40PM URINE Color-Straw Appear-Clear Sp ___
___ 03:40PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-MOD
___ 03:40PM URINE RBC-2 WBC-33* Bacteri-FEW Yeast-NONE 
Epi-1

STUDIES:
-------------------
___ CXR
FINDINGS:  
  
PA and lateral views of the chest provided. There is no focal 
consolidation, 
effusion, or pneumothorax. The cardiomediastinal silhouette is 
normal aside 
from aortic knob calcification.  Imaged osseous structures are 
intact.  No 
free air below the right hemidiaphragm is seen. 
  
IMPRESSION:  
  
No acute intrathoracic process. 

___ TTE:
Conclusions   
 The left atrium and right atrium are normal in cavity size. 
Left ventricular wall thickness, cavity size and regional/global 
systolic function are normal (LVEF >55%). Right ventricular 
chamber size and free wall motion are normal. The aortic valve 
leaflets are severely thickened/deformed. There is severe aortic 
valve stenosis (valve area 0.8 cm2, indexed ___ 0.5 cm2/m2). 
Trace aortic regurgitation is seen. The mitral valve leaflets 
are mildly thickened. Mild (1+) mitral regurgitation is seen. 
There is mild pulmonary artery systolic hypertension. There is 
no pericardial effusion.

 IMPRESSION: Normal global and regional biventricular systolic 
function. Severe aortic stenosis. Mild mitral regurgitation. 
Mild pulmonary hypertension.   

 
Brief Hospital Course:
___ yof with history of HTN, HLD, severe AS, hypothyroidism, and 
frequent UTIs, who presents after an isolated episode of likely 
presyncope. 

# Presyncope: Patient was in her USOH and was slightly 
emotionally charged at the moment as her husband's PSA has risen 
when she had acute onset of sweating and nausea, associated with 
a sensation of instability causing her to grab onto a railing. 
There was no fall or head strike. Patient then became more 
nauseous and vomited. She soon began to return to normal, 
presented to the ED at the urging of the nursing staff at her 
facility. In the ___ ED she was HD stable, EKG without 
ischemic changes, trop was <.01. TTE showed severe AS. Event 
thought to be vasovagal by history and not related to AS. 
However, patient has severe disease and not following with 
cardiology. We are making her a cardiology appointment so that 
she can be monitored and so that interventions could be 
discussed. 

# Pyuria: She had a positive UA and a leukocytosis to 12 and so 
was started on Bactrim for UTI but this was later discontinued 
due to lack of symptoms. 

Transitional issues:
Medication changes: none
[] ensure follow up with cardiology
[] consider outpatient exercise stress test to evaluate for 
exertional hypotension
[] Patient with asymptomatic pyuria, Bactrim initially ordered 
but discontinued due to lack of symptoms. 
 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Mirtazapine 7.5 mg PO QHS 
2. HydrOXYzine 25 mg PO QHS:PRN insomnia 
3. Carvedilol 6.25 mg PO BID 
4. amLODIPine 5 mg PO DAILY 
5. Atorvastatin 20 mg PO QPM 
6. Omeprazole 20 mg PO DAILY 
7. Escitalopram Oxalate 5 mg PO DAILY 
8. Levothyroxine Sodium 75 mcg PO DAILY 
9. Vitamin D ___ UNIT PO DAILY 

 
Discharge Medications:
1.  amLODIPine 5 mg PO DAILY  
2.  Atorvastatin 20 mg PO QPM  
3.  Carvedilol 6.25 mg PO BID  
4.  Escitalopram Oxalate 5 mg PO DAILY  
5.  HydrOXYzine 25 mg PO QHS:PRN insomnia  
6.  Levothyroxine Sodium 75 mcg PO DAILY  
7.  Mirtazapine 7.5 mg PO QHS  
8.  Omeprazole 20 mg PO DAILY  
9.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Presyncope
Vasovagal episode

Secondary:
Aortic stenosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

It was a pleasure taking care of you at the ___ 
___!  

Why was I admitted to the hospital?  
-You were admitted because you had an episode of unsteadiness. 
We think this was an event related to your nausea and vomiting.  


What happened while I was in the hospital?  
-  You were monitored with a heart monitor and you had a heart 
ultrasound which showed that you have severe aortic stenosis 
(valve narrowing). 

What should I do after leaving the hospital?  
-  We are making an appointment for you to see a cardiologist. 
Please follow with your primary doctor and ___ cardiologist. 

Thank you for allowing us to be involved in your care, we wish 
you all the best!  

Your ___ Healthcare Team  

 
Followup Instructions:
___